US04945180
1425 g of glycerol are placed in a four liter flask. 470 g of KOH are added and the mixture is slowly heated, the potassium hydroxide dissolving at approximately 100° C. After reaching a temperature of 140° C., over a period of 11/2 hours 264.4 g of 2-propyl-2-pentene nitrile are added dropwise, the temperature being kept at 140° to 145° C. Slight foaming initially occurs. The reaction mixture is refluxed for 8 hours, accompanied by the escape of ammonia and followed by mixing with 1700 ml of water. After cooling a roughly 2 cm thick, flaky foam layer has deposited on the clear yellow solution. The reaction mixture is acidified to pH 1 with 620 ml of concentrated hydrochloric acid. The separated oil is then taken up with 100 ml of n-hexane and the aqueous phase is again extracted twice with in each case 400 ml of n-hexane. After washing the organic phase with water and drying, a residue of 260 g is obtained by evaporating at 80 mbar and 40° C. Through precision distillation on an active column, 145.4 g of E-2-propyl-2-pentenoic acid is obtained therefrom corresponding to 50.4% of theory. The b.p.15 is 135° to 136° C. The distillate solidifies to a crystalline mass with a melting point of 38° C.

reactant | KOH | 470 g | [OH-].[K+]
reactant | 2-propyl-2-pentene nitrile | 264.4 g | C(CC)C(C#N)=CCC | C8H13N
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 620 ml | Cl | ClH
reactant | water | 1700 ml | O | H2O
solvent | n-hexane | 100 ml | CCCCCC | C6H14
solvent | glycerol | 1425 g | OCC(O)CO | C3H8O3
product | E-2-propyl-2-pentenoic acid | 145.4 g | C(CC)/C(/C(=O)O)=C\CC | C8H14O2
